US08252833B2
Diethyl (4-amino-3,5-difluorophenyl)propanedioate
Diethyl (3,5-difluoro-4-nitrophenyl)propanedioate (2.08 g, 6.56 mmol) was added to ethanol (100 ml). 10% Palladium on carbon (wet paste) (0.208 g) was then added under a flow of argon. This was treated with ammonium formate (2.07 g, 32.80 mmol) and the reaction heated to reflux for 30 minutes. Once cooled to room temperature the mixture was filtered through celite and washed with ethanol. This was evaporated to a brown oily solid. Triturating in DCM removed insoluble impurities. The liquors were evaporated and then purified by chromatography eluting with 5-40% ethyl acetate in hexane. The clean fractions were evaporated to give the title compound as a pale brown oil (0.774 g, 2.70 mmol). LC/MS: Rt=2.69, [MH]+ 288.

reactant | Diethyl (3,5-difluoro-4-nitrophenyl)propanedioate | 6.56 mmol, 2.08 g | FC=1C=C(C=C(C1[N+](=O)[O-])F)C(C(=O)OCC)C(=O)OCC | C13H13F2NO6
reactant | ammonium formate | 32.80 mmol, 2.07 g | C(=O)[O-].[NH4+]
catalyst | Palladium on carbon | 0.208 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Diethyl (4-amino-3,5-difluorophenyl)propanedioate | 2.70 mmol, 0.774 g | NC1=C(C=C(C=C1F)C(C(=O)OCC)C(=O)OCC)F | C13H15F2NO4
